US04256761
N-(3-Acetylthio-2-methylpropanoyl)-N-cyclobutylglycine t-butyl ester
To a chilled (0.5° C.) methylene chloride solution of N-cyclobutyl-glycine t-butyl ester (63.2 g, 0.34 mol) and triethylamine (26 g, 0.4 mol) was added dropwise 3-acetylthio-2-methylpropanoyl chloride (61.4 g, 0.34 mol). After stirring overnight the reaction mixture was filtered and the filtrate was concentrated. The residue was redissolved in ethyl acetate, washed with 5% HCl (3×500 ml), brine (500 ml) and saturated aqueous sodium bicarbonate (6×600 ml), dried over MgSO4, filtered, and concentrated yielding 80.6 g (72%) of the product as a brown oil.

reactant | N-cyclobutyl-glycine t-butyl ester | 0.34 mol, 63.2 g | C(C)(C)(C)OC(CNC1CCC1)=O | C10H19NO2
reactant | triethylamine | 0.4 mol, 26 g | C(C)N(CC)CC | C6H15N
reactant | 3-acetylthio-2-methylpropanoyl chloride | 0.34 mol, 61.4 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-Acetylthio-2-methylpropanoyl)-N-cyclobutylglycine t-butyl ester | 80.6 g, 72% | C(C)(C)(C)OC(CN(C1CCC1)C(C(CSC(C)=O)C)=O)=O | C16H27NO4S
